* C:\Users\bens1\Downloads\RFID.asc
XU1 S1I N002 3V3 0 S1O LT1677
V1 3V3 0 3.3
XU2 N009 1V65 3V3 0 1V65 LT1677
R1 3V3 N009 33k
R2 N009 0 33k
C1 N009 0 1µ
R3 S1O N002 4.7k
R4 N003 S1O 1k
R5 S2I N003 1k
R6 N003 S2O 10k
XU3 1V65 S2I 3V3 0 S2O LT1677
C2 S2O S2I 100p
R7 N007 S2O 1k
R8 S3I N007 1k
R9 N007 S3O 10k
C3 S3O S3I 100p
XU4 1V65 S3I 3V3 0 S3O LT1677
R10 VOUT S3O 10k
C4 VOUT 0 100p
R11 VOUT 0 20k
R12 1V65 N002 1k
C5 S1I N006 220n
R13 1V65 S1I 1Meg
R14 N006 N005 5.1k
C6 N006 0 10p
C7 N003 0 4.7n
C8 N007 0 4.7n
L1 N004 VIN 4.91m Rser=40m Cpar=0.029246n
R15 N005 0 330
C9 VIN 0 330p
L2 N008 0 10m
R16 N004 0 5
V3 NC_01 0 4
I1 0 N008 SINE(0 0.01 125k 0 0 0 30) AC 0.1 0
C10 N005 0 10n
I2 0 N008 SINE(0 0.01 100k 0.50m 0 0 30)
I3 0 N008 SINE(0 0.01 125k 1m 0 0 60)
I4 0 N008 SINE(0 0.01 125k 2m 0 0 30)
I5 0 N008 SINE(0 0.01 125k 2.5m 0 0 30)
XU5 N001 0 3V3 0 CARRIER LT1677
R18 0 N001 330k
C11 N001 VIN 10n
D2 VIN N005 BAS40-04HM
.model D D
.lib C:\Users\bens1\Documents\LTspiceXVII\lib\cmp\standard.dio
;ac dec 10 1k 1Meg
.tran 3m
K1 L2 L1 0.01
.lib LTC.lib
.backanno
.end
